US09388149B2
A solution of 2.12 g (6.55 mmol, 1.0 eq) of isopropyl (S)-1-(2-fluoro-3-nitrobenzoyl)pyrrolidine-2-carboxylate in 40 ml of methanol in the presence of 0.32 g (15% by weight) of palladium on carbon at 10% was stirred under a hydrogen atmosphere at ambient temperature for 16 hours. The reaction medium was filtered through celite and concentrated to dryness. 1.87 g of isopropyl (S)-1-(3-amino-2-fluorobenzoyl)pyrrolidine-2-carboxylate were obtained in the form of a colorless oil. Yield=97%.

reactant | isopropyl (S)-1-(2-fluoro-3-nitrobenzoyl)pyrrolidine-2-carboxylate | 6.55 mmol, 2.12 g, 1.0 eq | FC1=C(C(=O)N2[C@@H](CCC2)C(=O)OC(C)C)C=CC=C1[N+](=O)[O-] | C15H17FN2O5
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium on carbon | 0.32 g | [Pd] | Pd
product | isopropyl (S)-1-(3-amino-2-fluorobenzoyl)pyrrolidine-2-carboxylate | 1.87 g, Yield=97% | NC=1C(=C(C(=O)N2[C@@H](CCC2)C(=O)OC(C)C)C=CC1)F | C15H19FN2O3
